US05475086
Phe:
F Leu: L Ile: I Met: M

reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | Ile | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | Met | N[C@@H](CCSC)C(=O)O | C5H11NO2S
product | Phe | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
